US05919795
d. 6-nitro-1,2,3,4-tetrahydro-isoquinoline (5)
Methanesulfonyl chloride (0.9 mL, 11.63 mmol) was added dropwise over 10 min to a solution of 2-(2-hydroxymethyl-5-nitrophenyl)-ethanol (1.0 g, 5.07 mmol), triethyl amine (1.8 mL, 12.91 mmol), in methylene chloride (20 mL). TLC showed complete reaction after 30 min. 1H NMR (CD3Cl) δ 8.17-11 (m, 2H), 7.65 (d, J=9 Hz, 1H), (s, 2H), 4.49 (t, J=6 Hz, 2H), 3.25 (t, J=6 Hz, 2H), 3.08 (s, 3H), 2.98 (s, 3H). reaction mixture was washed with 10% aqueous HCL, saturated aqueous sodium bicarbonate, and brine. The organic layer was dried with magnesium sulfate, methylene chloride removed under vacuum and chased with THF (3×100 mL). The product 1.9 g was employed directly in the next reaction without further purification. Ammonia (50 mL) was added to the dimesylate (1.9 g) in THF (30 mL) at -78° C. The contents were warmed to 24° C. for 60 hrs, ammonia distilled out, and solvent removed under vacuum to give the crude product (786 mg, 82%). Toluene was added and the solution was filtered through magnesium sulfate, and solvent removed under vacuum to yield 721 mg (75%) of an amber oil.

reactant | Methanesulfonyl chloride | 11.63 mmol, 0.9 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-(2-hydroxymethyl-5-nitrophenyl)-ethanol | 5.07 mmol, 1.0 g | OCC1=C(C=C(C=C1)[N+](=O)[O-])CCO | C9H11NO4
reactant | triethyl amine | 12.91 mmol, 1.8 mL | C(C)N(CC)CC | C6H15N
reactant | Ammonia | 50 mL | N | H3N
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
product | 6-nitro-1,2,3,4-tetrahydro-isoquinoline | 721 mg, 75% | [N+](=O)([O-])C=1C=C2CCNCC2=CC1 | C9H10N2O2
